US07122672B2
Stage 1: Preparation of 3-cyano-6-hydroxyquinoline [Reference Liebigs Ann Chem (1966) 98–106]
3-Bromo-6-hydroxyquinoline (1.12 g) in dry N-methylpyrrolidin-2-one (10 ml) was treated with cuprous cyanide (0.55 g) and stirred at 150° C. for 7 hours under an atmosphere of nitrogen then stored at ambient temperature for 18 hours. The mixture was treated with sodium cyanide (1.5 g) in water (5 ml) and heated at 75° C. for 15 minutes. 10% Aqueous ammonium chloride solution (25 ml) was added and the mixture cooled to ambient temperature. The reaction mixture was extracted with ethyl acetate and the organic phase separated, washed with water, dried over magnesium sulphate and evaporated under reduced pressure to give a yellow brown solid. The solid was fractionated by chromatography to give the required product as a yellow solid.

reactant | 3-Bromo-6-hydroxyquinoline | 1.12 g | BrC=1C=NC2=CC=C(C=C2C1)O | C9H6BrNO
reactant | sodium cyanide | 1.5 g | [C-]#N.[Na+]
reactant | ammonium chloride | 25 ml | [Cl-].[NH4+]
solvent | N-methylpyrrolidin-2-one | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 5 ml | O | H2O
product | 3-cyano-6-hydroxyquinoline | C(#N)C=1C=NC2=CC=C(C=C2C1)O | C10H6N2O
